US07241791B2
3-(4-methoxy-2-methylphenyl)-7-(trifluoromethyl)-1H-indazole
Prepared according to Method D Step A from [2-fluoro-3-(trifluoromethyl)phenyl](4-methoxy-2-methylphenyl)methanone (1.34 g, 4.90 mmol), hydrazine hydrate (1.61 mL, 51.7 mmol) and DMAP (0.632 g, 5.17 mmol) to give the product (0.620 g) as a yellow solid.

reactant | [2-fluoro-3-(trifluoromethyl)phenyl](4-methoxy-2-methylphenyl)methanone | 4.90 mmol, 1.34 g | FC1=C(C=CC=C1C(F)(F)F)C(=O)C1=C(C=C(C=C1)OC)C | C16H12F4O2
reactant | hydrazine hydrate | 51.7 mmol, 1.61 mL | O.NN
catalyst | DMAP | 5.17 mmol, 0.632 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(4-methoxy-2-methylphenyl)-7-(trifluoromethyl)-1H-indazole | 0.620 g | COC1=CC(=C(C=C1)C1=NNC2=C(C=CC=C12)C(F)(F)F)C | C16H13F3N2O
